US09085555B2
(2S,4R)-1-[2-(3-Acetyl-5-hydroxy-indol-1-yl)-acetyl]-4-fluoro-4-methyl-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
The title compound was prepared in a similar manner as described above for Example 577 from (2S,4R)-1-[2-(3-acetyl-5-benzyloxy-indol-1-yl)-acetyl]-4-fluoro-4-methyl-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide (57.0 mg, 0.096 mmol), TFA (3 mL), and thioanisole (0.114 mL, 0.960 mmol). Solid. MS (LC/MS): 504 [M+H]+; tR (HPLC, conditions k): 3.22 min.

reactant | (2S,4R)-1-[2-(3-acetyl-5-benzyloxy-indol-1-yl)-acetyl]-4-fluoro-4-methyl-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | 0.096 mmol, 57.0 mg | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@](C2)(C)F)C(CN2C=C(C3=CC(=CC=C23)OCC2=CC=CC=C2)C(C)=O)=O)C=CC1)F | C32H30ClF2N3O4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | thioanisole | 0.960 mmol, 0.114 mL | C1(=CC=CC=C1)SC | C7H8S
product | (2S,4R)-1-[2-(3-Acetyl-5-hydroxy-indol-1-yl)-acetyl]-4-fluoro-4-methyl-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@](C2)(C)F)C(CN2C=C(C3=CC(=CC=C23)O)C(C)=O)=O)C=CC1)F | C25H24ClF2N3O4
